Simple RC test (Tree)

V1 1 0 DC 0 SIN (0 1 1K 0 0)
R1 1 2 1
C1 2 0 1e-9

* Fan-out tree
X1 2 3 rctree_parallel

.subckt rc 1 2
R 1 2 1
C 2 0 1e-9
.ends

* Base building block (10 elements)
.subckt rc10 1 11
X1 1 2 rc
X2 2 3 rc
X3 3 4 rc
X4 4 5 rc
X5 5 6 rc
X6 6 7 rc
X7 7 8 rc
X8 8 9 rc
X9 9 10 rc
X10 10 11 rc
.ends

* 100 elements
.subckt rc100 1 11
X1 1 2 rc10
X2 2 3 rc10
X3 3 4 rc10
X4 4 5 rc10
X5 5 6 rc10
X6 6 7 rc10
X7 7 8 rc10
X8 8 9 rc10
X9 9 10 rc10
X10 10 11 rc10
.ends

* 1000 elements
.subckt rc1000 1 11
X1 1 2 rc100
X2 2 3 rc100
X3 3 4 rc100
X4 4 5 rc100
X5 5 6 rc100
X6 6 7 rc100
X7 7 8 rc100
X8 8 9 rc100
X9 9 10 rc100
X10 10 11 rc100
.ends

* -------- PARALLEL TREE --------
.subckt rctree_parallel 1 100

X1 1 11 rc1000
X2 1 21 rc1000
X3 1 31 rc1000
X4 1 41 rc1000
X5 1 51 rc1000
X6 1 61 rc1000
X7 1 71 rc1000
X8 1 81 rc1000

.ends

.tran 0.1u 1
.print tran V(2)
.end